US06468990B1
4-carboxy-N-(carboxymethyl)phthalimide (100)
4-carboxyphthalic anhydride (benzene tricarboxylic acid anhydride) (1.0 g, 0.0052 mol), glycine (0.3907 g, 0.0052 mol) and 50-60 mls of glacial acetic acid were added to a 100 ml round-bottom flask equipped with a reflux condenser, heating mantle and stir plate. The system was placed under a N2 atmosphere and heated to a gentle reflux. The progress of the reaction was monitored by TLC. After 7 hours the clear colourless solution was cooled to room temperature. The resulting white precipitate was filtered through a Buchner funnel and washed three times with 10 mls of distilled water. This crude material was recrystallized in EtOH/H2O to afford the desired product as a powdery white solid. The filtrate was evaporated under vacuum using a rotary evaporator. The crude material was recrystallized from EtOH/H2O to yield a second batch of white powdery product. Individual batches were dried in air for 24 hours and then in vacuo for 48-72 hours to afford 100 in a combined yield of 1.02 g (78%): mp=262-265° C.; Rf0.70 (A): Rf0.47 (B): Rf0.20 (D): 1H NMR (DMSO-d6) δ4.33 (s, 2H), 8.02 (d, J=7.8 Hz, 1H), 8.24 (bs, 1H), 8.36 (d, J=7.8 Hz, 1H); MS m/z (rel intensity) 249 (13), 248 (100), 204 (36); IR (cm−1): 2750-3300 (OH), 3052 (C═CH), 2671 (C—H), 1776 (C═O), 1731 (C═O), 1705 (C═O), 1620 (C═C), 1420 (C═C), 1300 (C—O), 1122 (C—O), 746 (C═CH).

reactant | 4-carboxyphthalic anhydride | 0.0052 mol, 1.0 g | C(=O)(O)C=1C=C2C(C(=O)OC2=O)=CC1 | C9H4O5
reactant | glycine | 0.0052 mol, 0.3907 g | NCC(=O)O | C2H5NO2
solvent | acetic acid | 50-60 mls | C(C)(=O)O | C2H4O2
product | 4-carboxy-N-(carboxymethyl)phthalimide | C(=O)(O)C=1C=C2C(C(=O)N(C2=O)CC(=O)O)=CC1 | C11H7NO6
